US07150957B2
Synthesis of 1,1,1-trifluoro-2-trifluoromethyl-5-vinyloxy-pentan-2-ol (VE-PrHFA)
1,1,1-Trifluoro-2-trifluoromethyl-2,5-pentanediol (11.3 g, 50 mmol), toluene (50 mL), sodium carbonate (10.6 g,100 mmol), chloro-1,5-cyclooctadiene iridium(I) dimer (0.34 g, 0.5 mmol), vinyl acetate(14 mL, 150 mmol) were placed in a dry 250 mL round-bottom flask equipped with a stir bar, condenser, and nitrogen inlet. The reaction mixture was heated to 100° C. and stirred for 3 hours, after which time it was cooled to room temperature. Diethyl ether (50 mL) was added to quench the reaction. After adding charcoal, the mixture was stirred for 1 hr and filtered with Celite 521. Diethyl ether, excess vinyl acetate, and solvent were distilled off under reduced pressure. The degree of the transetherification of the primary diol was found to be 52% by GC. Vacuum distillation (68–70° C., 15 mm Hg) afforded 3.13 g (25%) of colorless liquid.

reactant | 1,1,1-Trifluoro-2-trifluoromethyl-2,5-pentanediol | 50 mmol, 11.3 g | FC(C(CCCO)(O)C(F)(F)F)(F)F | C6H8F6O2
reactant | sodium carbonate | 100 mmol, 10.6 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | vinyl acetate | 150 mmol, 14 mL | C(C)(=O)OC=C | C4H6O2
reactant | charcoal | C | CH4
catalyst | chloro-1,5-cyclooctadiene iridium(I) | [Ir+].ClC1=CCCC=CCC1
solvent | Diethyl ether | 50 mL | C(C)OCC | C4H10O
solvent | toluene | 50 mL | C1(=CC=CC=C1)C | C7H8
product | 1,1,1-trifluoro-2-trifluoromethyl-5-vinyloxy-pentan-2-ol | 3.13 g, 25% | FC(C(CCCOC=C)(O)C(F)(F)F)(F)F | C8H10F6O2
